* SPICE Netlist
   * Components:
   * D1: Diode
   * I1: Current Source
   * R1: Resistor (20 kΩ)

   I1 3 0 DC I
   D1 3 Vo D
   R1 Vo 2 20k
   V1 3 0 DC 5V
   V2 2 0 DC -5V

   .model D D
   .end